US08709772B2
D-tryptophan Transamination Assay
The extent of reaction was followed by measuring the amount of indole-3-pyruvate formed using the following assay: to 5 μl, 10 μl and 20 μl of reaction mix, 200 μl of the following solution was added: 0.5 mM sodium arsenate; 0.5 mM EDTA; and 50 mM sodium tetraborate (pH 8.5). Absorbance of the indole-3-pyruvate enol-borate complex at 325 nm was compared to a standard curve of indole-3-pyruvate prepared in the same solution.

reactant | indole-3-pyruvate | N1C=C(C2=CC=CC=C12)CC(C(=O)[O-])=O
reactant | sodium arsenate | 0.5 mM | [As]([O-])([O-])([O-])=O.[Na+].[Na+].[Na+]
reactant | EDTA | 0.5 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | sodium tetraborate | 50 mM, pH 8.5 | B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+]
product | D-tryptophan | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
